US04297359
Phenyl 4-pyridinyl ketone oxime (5.4 g) was stirred in 50 ml of dimethyl formamide containing 1.5 g of a 50% dispersion of sodium hydride in oil, for 0.5 hours at room temperature. After the hydrogen evolution was completed, chloroacetonitrile (2.5 g) was added. The reaction mixture was stirred for 1 hour. The greater part of the dimethyl formamide was evaporated at reduced pressure, and then the residue was treated with ether and water. The ether layer was separated and dried over magnesium sulphate. The product was recrystallized from a mixture of ether and petroleum ether (40°-60° C.), yielding pure phenyl 4-pyridinyl ketone, O-cyanomethyl oxime (4.9 g, m.p. 101.5°-103° C.).

reactant | Phenyl 4-pyridinyl ketone oxime | 5.4 g | N1=CC=C(C=C1)C(C1=CC=CC=C1)=NO | C12H10N2O
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | chloroacetonitrile | 2.5 g | ClCC#N | C2H2ClN
reactant | dimethyl formamide | 50 ml, 1.5 g | CN(C=O)C | C3H7NO
product | phenyl 4-pyridinyl ketone | N1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C12H9NO
